US08859774B2
A solution of pyrrolidine (0.046 mL, 0.557 mmol) and (R)-(1-(4-fluorophenyl)-6-((4-fluorophenyl)sulfonyl)-4,4a,5,6,7,8-hexahydro-1H-pyrazolo[3,4-g]isoquinolin-4a-yl)(thiazol-2-yl)methanone (0.1 g, 0.186 mmol) in N-methylpyrrolidine (2 mL) was stirred at 50° C. in a sealed vial for 6 hours, then allowed to stand at room temperature for 72 hours. The reaction mixture was then stirred at 100° C. for an additional 5 hours, cooled to room temperature, and purified directly by preparative HPLC (Varian, Acidic (0.1% Formic acid), Waters X-Select Prep-C18, 5 μm, 19×50 mm column, 50-70% acetonitrile in water) to afford (R)-(1-(4-fluorophenyl)-6-((4-(pyrrolidin-1-yl)phenyl)sulfonyl)-4,4a,5,6,7,8-hexahydro-1H-pyrazolo[3,4-g]isoquinolin-4a-yl)(thiazol-2-yl)methanone as a pale yellow solid (58 mg). LCMS (Method F, ES-API): RT 2.81 min, m+H=590.0; 1H NMR (400 MHz, CDCl3): δ 8.02 (d, 1H, J=3.1 Hz), 7.62 (d, 1H, J=3.1 Hz), 7.54-7.50 (m, 2H), 7.45-7.40 (m, 2H), 7.28 (s, 1H), 7.219-7.12 (m, 2H), 6.50-6.45 (m, 3H), 5.46 (dd, 1H, J=12.1, 2.0 Hz), 4.21 (d, 1H, J=16.8 Hz), 3.86-3.80 (m, 1H), 3.35-3.30 (m, 4H), 2.92-2.81 (m, 2H), 2.64 (d, 1H, J=12.2 Hz), 2.52-2.36 (m, 2H), 2.07-2.01 (m, 4H).

reactant | pyrrolidine | 0.557 mmol, 0.046 mL | N1CCCC1 | C4H9N
reactant | (R)-(1-(4-fluorophenyl)-6-((4-fluorophenyl)sulfonyl)-4,4a,5,6,7,8-hexahydro-1H-pyrazolo[3,4-g]isoquinolin-4a-yl)(thiazol-2-yl)methanone | 0.186 mmol, 0.1 g | FC1=CC=C(C=C1)N1N=CC2=C1C=C1CCN(C[C@]1(C2)C(=O)C=2SC=CN2)S(=O)(=O)C2=CC=C(C=C2)F | C26H20F2N4O3S2
solvent | N-methylpyrrolidine | 2 mL | CN1CCCC1 | C5H11N
product | (R)-(1-(4-fluorophenyl)-6-((4-(pyrrolidin-1-yl)phenyl)sulfonyl)-4,4a,5,6,7,8-hexahydro-1H-pyrazolo[3,4-g]isoquinolin-4a-yl)(thiazol-2-yl)methanone | 58 mg | FC1=CC=C(C=C1)N1N=CC2=C1C=C1CCN(C[C@]1(C2)C(=O)C=2SC=CN2)S(=O)(=O)C2=CC=C(C=C2)N2CCCC2 | C30H28FN5O3S2
